US07572809B2
Similar procedure as described in example 9B was used, starting from 3-(2-Chloro-3,4-dimethoxy-phenyl)-acrylic acid and Pd—C to give 3-(2-Chloro-3,4-dimethoxy-phenyl)-propionic acid. LC-MS: m/e 243 (M−1).

reactant | 3-(2-Chloro-3,4-dimethoxy-phenyl)-acrylic acid | ClC1=C(C=CC(=C1OC)OC)C=CC(=O)O | C11H11ClO4
catalyst | Pd—C | [Pd] | Pd
product | 3-(2-Chloro-3,4-dimethoxy-phenyl)-propionic acid | ClC1=C(C=CC(=C1OC)OC)CCC(=O)O | C11H13ClO4
